US09388189B2
b) Benzyl ((5-bromo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate
To a solution of benzyl (2-((3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-2-oxoethyl)carbamate (7.81 g, purity 45%, 7.48 mmol) in toluene (80 ml) in a reactor equipped with a Dean-Stark destilator was added pyridinium p-toluene sulfonate (1.88 g, 7.48 g) and the reaction mixture was stirred at 120° C. for 3 days. The crude was diluted with ethyl acetate and washed with water and brine, dried over magnesium sulphate and the solvent was removed to give 7.39 g (100% yield) of the final product as a dark oil. Estimated purity 46%. This crude was used in the next step without further purification.

reactant | benzyl (2-((3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-2-oxoethyl)carbamate | 7.48 mmol, 7.81 g | BrC1=C(N(C=C1)NC(CNC(OCC1=CC=CC=C1)=O)=O)C(NC1=CC=CC=C1)=O | C21H19BrN4O4
reactant | pyridinium p-toluene sulfonate | 1.88 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl ((5-bromo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 7.39 g, 100% yield | BrC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)CCNC(OCC2=CC=CC=C2)=O | C22H19BrN4O3
